US07723378B2
To a cold solution (−70° C.) of oxalyl chloride (169 mg, 1.34 mmol) and DMSO (209 mg, 2.67 mmol) in DCM (4 mL) a solution of {4-[5-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methanol (410 mg, 1.11 mmol) in DCM (5 mL) is added. The mixture is warmed to −40° C. within 30 min and then triethylamine (394 mg, 3.89 mmol) is added. Stirring is continued at −40° C. for 1 h, then at rt. The reaction is quenched by adding water and the mixture is extracted with diethyl ether. The organic extract is dried over MgSO4, filtered and the solvent of the filtrate is evaporated. The crude product is purified by chromatography on prep. TLC plates with heptane:EA 3:1 to give 4-[5-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-benzaldehyde (180 mg) as a white solid; LC-MS: tR=1.24 min, [M+1]+=367.24.

reactant | oxalyl chloride | 1.34 mmol, 169 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.67 mmol, 209 mg | CS(=O)C | C2H6OS
reactant | {4-[5-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methanol | 1.11 mmol, 410 mg | C(C)C1=C2C(=C(S1)C1=NC(=NO1)C1=CC=C(C=C1)CO)CCC(C2)(C)C | C21H24N2O2S
reactant | triethylamine | 3.89 mmol, 394 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-[1,2,4]oxadiazol-3-yl]-benzaldehyde | 180 mg | C(C)C1=C2C(=C(S1)C1=NC(=NO1)C1=CC=C(C=O)C=C1)CCC(C2)(C)C | C21H22N2O2S
